US07678914B2
(3S,4R)-tert-butyl 4-(4-fluorophenyl)-3-(hydroxymethyl)piperidine-1-carboxylate.
A 6.7 mmol portion of (3S,4R)-benzyl 4-(4-fluorophenyl)-3-(hydroxymethyl)piperidine-1-carboxylate (U.S. Pat. No. 6,476,227) is dissolved in 25 mL of dioxane and treated under argon with 7.1 mmol of di-tert-butyl dicarbonate and 200 mg of 10% Pd/C. The mixture is hydrogenated under an atmosphere of hydrogen (balloon) for about 17 h, then filtered and concentrated in vacuo. The residue is purified by silica gel chromatography (methanol/methylene chloride eluant), yielding the title product.

reactant | (3S,4R)-benzyl 4-(4-fluorophenyl)-3-(hydroxymethyl)piperidine-1-carboxylate | FC1=CC=C(C=C1)[C@H]1[C@@H](CN(CC1)C(=O)OCC1=CC=CC=C1)CO | C20H22FNO3
reactant | di-tert-butyl dicarbonate | 7.1 mmol | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | (3S,4R)-tert-butyl 4-(4-fluorophenyl)-3-(hydroxymethyl)piperidine-1-carboxylate | FC1=CC=C(C=C1)[C@H]1[C@@H](CN(CC1)C(=O)OC(C)(C)C)CO | C17H24FNO3
